US06051288
First, 2.1 g (6.4 mmol) of 2-fluoro-4-(2-(trans-4-pentyl-cyclohexyl)ethyl)benzoic acid was mixed with 1.1 g (9.6 mmol) of thionyl chloride, 0.1 ml of pyridine, and 3 ml of toluene, and reacted at 80° C. for 3 hours. Excess amount of thionyl chloride and toluene were distilled off at a reduced pressure to obtain a crude 2-fluoro-4-(2-(trans-4-pentyl-cyclohexyl)ethyl)benzoyl chloride.

reactant | 2-fluoro-4-(2-(trans-4-pentyl-cyclohexyl)ethyl)benzoic acid | 6.4 mmol, 2.1 g | FC1=C(C(=O)O)C=CC(=C1)CC[C@@H]1CC[C@H](CC1)CCCCC | C20H29FO2
reactant | thionyl chloride | 9.6 mmol, 1.1 g | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 0.1 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 2-fluoro-4-(2-(trans-4-pentyl-cyclohexyl)ethyl)benzoyl chloride | FC1=C(C(=O)Cl)C=CC(=C1)CC[C@@H]1CC[C@H](CC1)CCCCC | C20H28ClFO
